US04720564
84.7 ml (0.1 mol) of methacrylic acid was added dropwise over 5 minutes to 18 g (0.1 mol) of crude trichlorogermane which had been cooled to 5° C. in an ice bath. The mixture was stirred at the same temperature for one hour and then at room temperature for 1.5 hour. The precipitated crystal was filtered by suction, washed with 10ml of n-hexane which had been dried over potassium chloride for four times, dried by suction and kept in a desiccator containing phosphorus pentoxide at 65° C. for one hour with reducing the pressure by a vacuum pump which uses potassium hydroxide containing trap to obtain 17.03 g of crystalline 2-methyl-3-(trichlorogermyl)propionic acid:

reactant | methacrylic acid | 0.1 mol, 84.7 ml | C(C(=C)C)(=O)O | C4H6O2
reactant | trichlorogermane | 0.1 mol | Cl[GeH](Cl)Cl | Cl3GeH
product | 2-methyl-3-(trichlorogermyl)propionic acid | 17.03 g | CC(C(=O)O)C[Ge](Cl)(Cl)Cl | C4H7Cl3GeO2
